US05145483
Preparation of 5-acetamido-2-[N-benzyloxycarbonyl -N-(β-hydroxyethyl)amino]phenol hemihydrate
0.24 mole (23 ml) of acetic anhydride is added dropwise to a solution of 0.24 mole (72 g) of 5-amino-2-[N-benzyloxycarbonyl-N-(β-hydroxyethyl)amino]phenol in one liter of ethyl acetate heated to 80° C. After evaporation of the solvent under vacuum, the expected product is purified on a silica column. It then melts at 72° C.

reactant | acetic anhydride | 0.24 mole, 23 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-amino-2-[N-benzyloxycarbonyl-N-(β-hydroxyethyl)amino]phenol | 0.24 mole, 72 g | NC=1C=CC(=C(C1)O)N(CCO)C(=O)OCC1=CC=CC=C1 | C16H18N2O4
solvent | ethyl acetate | one liter | C(C)(=O)OCC | C4H8O2
product | 5-acetamido-2-[N-benzyloxycarbonyl -N-(β-hydroxyethyl)amino]phenol hemihydrate | O.C(C)(=O)NC=1C=CC(=C(C1)O)N(CCO)C(=O)OCC1=CC=CC=C1.C(C)(=O)NC=1C=CC(=C(C1)O)N(C(=O)OCC1=CC=CC=C1)CCO | InChI=1S/2C18H20N2O5.H2O/c2*1-13(22)19-15-7-8-16(17(23)11-15)20(9-10-21)18(24)25-12-14-5-3-2-4-6-14;/h2*2-8,11,21,23H,9-10,12H2,1H3,(H,19,22);1H2
